US06656951B2
8-{[(2S)-8-Methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-3-(2-pyridinyl)-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared by the same procedure described in Example 1, Step 4 using 3-(2-pyridinyl)-8-azabicyclo[3.2.1]octan-3-ol in place of 3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]octan-3-ol, and (S)-toluene-4-sulfonic acid 8-methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester in place of (S)-toluene-4-sulfonic acid 8-ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester. Yield: 70%, white solid.

reactant | 3-(2-pyridinyl)-8-azabicyclo[3.2.1]octan-3-ol | N1=C(C=CC=C1)C1(CC2CCC(C1)N2)O | C12H16N2O
reactant | (S)-toluene-4-sulfonic acid 8-methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | COC1=CC=CC2=C1O[C@@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C | C17H18O6S
product | 8-{[(2S)-8-Methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-3-(2-pyridinyl)-8-azabicyclo[3.2.1]octan-3-ol | Yield: 70% | COC1=CC=CC2=C1O[C@H](CO2)CN2C1CC(CC2CC1)(O)C1=NC=CC=C1 | C22H26N2O4
